US08044052B2
2-(3-Piperidin-4-ylidene-methyl-phenoxy)-benzene
A slurry of tert-butyl 4-(3-hydroxybenzylidene)piperidine-1-carboxylate (500 mg, 1.73 mmol), phenylboronic acid (418 mg, 3.43 mmol), cupric acetate (314 mg, 1.73 mmol), triethyl amine (1.21 mL 1.8 mmol), and 4 Å powdered sieves (300 mg) in dichloromethane (15 mL) was stirred 18 h at ambient temperature. The reaction mixture was diluted with additional solvent and filtered to remove solid material, washed successively with 1N NaOH and brine, and dried over Na2SO4 to provide a brown oil. This material was purified by column chromatography (1:4 ethyl acetate:heptane) to provide the intermediate Boc-protected material (190 mg, 33%). This material was dissolved in dichloromethane (20 mL) and stirred with trifluoroacetic acid (1 mL) for 3 d at ambient temperature. The reaction was concentrated to a foam that was dissolved in toluene and re-evaporated to give the title compound which was used in the next reaction.

reactant | tert-butyl 4-(3-hydroxybenzylidene)piperidine-1-carboxylate | 1.73 mmol, 500 mg | OC=1C=C(C=C2CCN(CC2)C(=O)OC(C)(C)C)C=CC1 | C17H23NO3
reactant | phenylboronic acid | 3.43 mmol, 418 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | triethyl amine | 1.8 mmol, 1.21 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 2-(3-Piperidin-4-ylidene-methyl-phenoxy)-benzene | N1CCC(CC1)=C1C(C(OC2=CC=CC=C2)=CC=C1)C | C18H21NO
